US04083948
2-Bromo-4'-chloro-2'-(4-hydroxybenzoyl)acetanilide
A solution of 41 g (0.165 mole) 2-amino-5-chloro-4'-hydroxybenzophenone in 800 ml of ether and 200 ml of water was cooled to 5°. The mixture was stirred while 20 ml (0.277 mole) of bromoacetyl bromide and a 20% solution of sodium carbonate were added alternately keeping the solution slightly basic. After 20 min. the reaction mixture was filtered to collect 60 g (about 100%) of product mp 201°-202°. Recrystallization from ethanol gave colorless prisms, mp 201°-203°.

reactant | 2-amino-5-chloro-4'-hydroxybenzophenone | 0.165 mole, 41 g | NC1=C(C(=O)C2=CC=C(C=C2)O)C=C(C=C1)Cl | C13H10ClNO2
reactant | bromoacetyl bromide | 0.277 mole, 20 ml | BrCC(=O)Br | C2H2Br2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | 800 ml | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 2-Bromo-4'-chloro-2'-(4-hydroxybenzoyl)acetanilide | BrCC(=O)NC1=C(C=C(C=C1)Cl)C(C1=CC=C(C=C1)O)=O | C15H11BrClNO3
